US06992087B2
Preparation of racemic mixture of trans-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-1,2,3,4-tetrahydronaphthalen-2-ol
Following the procedure for the preparation of (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting (trans)-1-[(3,6-diethylpyrazin-2-yl)amino]-1,2,3,4-tetrahydronaphthalen-2-ol and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 1.30 (m, 6H), 1.95 (m, 1H), 2.25 (m, 1H), 2.64 (dd, J=7.5, 15.1 Hz, 2H), 2.84 (dd, J=7.6, 15.2 Hz, 2H), 2.94 (m, 2H), 4.03 (m, 1H), 4.74 (d, J=6.7 Hz, 1H), 5.08 (s, 1H), 5.16 (dd, J=6.7, 7.2 Hz, 1H), 7.2 (m, 1H), 7.28 (m, 2H), 7.35 (m, 1H); MS (EI) m/z (rel. intensity) 375 (M+, 9), 359 (68), 357 (67), 230 (45), 146 (35), 129 (69), 128 (56), 118 (55), 117 (99), 115 (68), 91 (45). HRMS (FAB) calcd for C18H22BrN3O+H 376.1025, found 376.1029. Anal. Calcd for C18H22BrN3O: C, 57.45; H, 5.89; N, 11.17; Br, 21.23. Found: C, 57.61; H, 5.88; N, 10.70.

reactant | (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C17H20BrN3O
reactant | (trans)-1-[(3,6-diethylpyrazin-2-yl)amino]-1,2,3,4-tetrahydronaphthalen-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@@H](CCC2=CC=CC=C12)O | C18H23N3O
product | trans-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-1,2,3,4-tetrahydronaphthalen-2-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@@H](CCC2=CC=CC=C12)O)CC | C18H22BrN3O
